US03959478
Preparation of 2-(3-Chlorophenyl)-4-(2,6-dichlorobenzoyl)-1,2,4-oxadiazolidin-3,5-dione
2-(3-Chlorophenyl)-1,2,4-oxadiazolidin-3,5-dione (0.03 mole), toluene (100 ml) and triethylamine (5 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2,6-Dichlorobenzoyl chloride (0.03 mole) dissolved in toluene (20 ml) is then added to the reaction flask and the resulting mixture is heated at reflux with stirring for a period of about 24 hours. After this time the reaction mixture is filtered and the filtrate is washed with water, dilute hydrochloric acid and with aqueous sodium bicarbonate. The washed solution is then dried over anhydrous magnesium sulfate. The dried solution is stripped of solvent under reduced pressure leaving a solid residue. The residue is recrystallized to yield the desired product 2-(3-chlorophenyl)-4-(2,6-dichlorobenzoyl)-1,2,4-oxadiazolidin-3,5-dione.

reactant | 2-(3-Chlorophenyl)-1,2,4-oxadiazolidin-3,5-dione | 0.03 mole | ClC=1C=C(C=CC1)N1OC(NC1=O)=O | C8H5ClN2O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-Dichlorobenzoyl chloride | 0.03 mole | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chlorophenyl)-4-(2,6-dichlorobenzoyl)-1,2,4-oxadiazolidin-3,5-dione | ClC=1C=C(C=CC1)N1OC(N(C1=O)C(C1=C(C=CC=C1Cl)Cl)=O)=O | C15H7Cl3N2O4
